US06624159B2
Ethyl 9-(4-morpholinylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate
Bromoacetic anhydride (280 mg) is added to ethyl 8-amino-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate (Preparation 2, 330 mg) in DMF (4.0 mL). Triethylamine (400 mg) is added and the reaction is heated for 10 min at 60° C. After 1 h, the DMF is removed and the product is chromatographed on silica gel with 10% methanol as the eluant to give 310 mg of the title compound as a mixture with triethylamine hydrobromide. Physical characteristics: 1H NMR (DMSO-d6) δ1.40, 2.45, 3.56, 3.69, 4.39, 4.88, 7.49, 7.97, 8.34.

reactant | Bromoacetic anhydride | 280 mg | BrCC(=O)OC(CBr)=O | C4H4Br2O3
reactant | ethyl 8-amino-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | 330 mg | NC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)CN1CCOCC1 | C17H21N3O4
reactant | Triethylamine | 400 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | Ethyl 9-(4-morpholinylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate | 310 mg | N1(CCOCC1)CC=1C=C2C=3N(CC(NC3C1)=O)C=C(C2=O)C(=O)OCC | C19H21N3O5
